US04738970
0.4 Gram of 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine was dissolved in 40 ml of chloroform, then this solution was stirred under ice-cooling condition, 0.27 g of m-chloroperbenzoic acid (85%) was added thereto. The whole reaction mixture was stirred at the same temperature for 20 minutes. After the reaction was completed, the reaction mixture was concentrated under reduced pressure, the residue thus obtained was washed with diethyl ether. Recrystallization from ethanol to yield 1.15 g 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylsulfinyl]imidazo[4,5-b]pyridine in the form of light brown powdery crystals. Melting point: 169°-170° C.

reactant | 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]imidazo[4,5-b]pyridine | CC=1C(=NC=C(C1OC)C)CSC=1NC=2C(=NC=CC2)N1 | C15H16N4OS
reactant | m-chloroperbenzoic acid | 0.27 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylsulfinyl]imidazo[4,5-b]pyridine | 1.15 g | CC=1C(=NC=C(C1OC)C)CS(=O)C=1NC=2C(=NC=CC2)N1 | C15H16N4O2S
